US05574055
A suspension of 8.9 g of (RS)-3-(6-bromo-pyridin-3-yl)-5-methoxymethyl-oxazolidin-2-one, 6.5 g of 8-tributyl-stannyl-1,4-dioxaspiro[4,5]dec-7-ene and 1.4 g of bis(triphenylphosphine)palladium(II) dichloride in 40 ml of dimethylformamide was stirred at 85° under argon for 22 h. Then, the mixture was cooled, filtered over a Celite® pad, the filter cake was washed with a large amount of ethyl acetate and the organic phase was washed several times with semi-saturated sodium chloride solution. The aqueous phases were extracted with ethyl acetate, the organic phases were combined, concentrated to a volume of 250 ml, treated with 250 ml of saturated potassium fluoride solution and stirred for 30 minutes. The mixture was again filtered over a Celite® pad, the phases were separated and the aqueous phase was extracted with ethyl acetate. The organic phases were combined, dried with magnesium sulfate, concentrated and chromatographed over silica gel 60 with diethyl ether as the eluent. There were obtained 1.2 g of (RS)-3-[6-(1,4-dioxa-spiro[4,5]dec-7-en-8-yl)-pyridin-3-yl]-5-methoxymethyl-oxazolidin-2-one. 1H-nmr (CDCl3) ppm: 8.48 (s, 1H), 8.19 (d, 1H), 7.56 (d,1H), 6.50 (m, 1H), 4.79 (m, 1H), 4.12 (t, 1H), 4.02 (s, 4H), 3.98 (t, 1H), 3.64 (m, 2H), 3.44 (s, 3H), 2.80 (m, 2H), 2.52 (m, 2H), 1.96 (t, 2H).

reactant | (RS)-3-(6-bromo-pyridin-3-yl)-5-methoxymethyl-oxazolidin-2-one | 8.9 g | BrC1=CC=C(C=N1)N1C(OC(C1)COC)=O | C10H11BrN2O3
reactant | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 1.4 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (RS)-3-[6-(1,4-dioxa-spiro[4,5]dec-7-en-8-yl)-pyridin-3-yl]-5-methoxymethyl-oxazolidin-2-one | 1.2 g | O1CCOC12CC=C(CC2)C2=CC=C(C=N2)N2C(OC(C2)COC)=O | C18H22N2O5
